US07723369B2
To a solution of 3-cyclohexyl-1-propyne (145 μL, 1 mmol) in 2 mL dry THF at 0° C. was added 2 mL 0.5 M 9-BBN solution in THF. The resulting solution was stirred at room temperature under nitrogen for 4 hr. Then it was condensed under vacuum and used as boronic acid derivative according to general procedure G, reacting with 5-{3-[2-(4-bromo-benzyl)-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenyl}-1,2,5-thiadiazolidine-3-one-1,1-dioxide (119 mg, 0.2 mmol) to give 5-{3-[2-[4-(3-cyclohexyl-propenyl)-benzyl]-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenyl}-1,2,5-thiadiazolidine-3-one-1,1-dioxide.

reactant | 3-cyclohexyl-1-propyne | 1 mmol, 145 μL | C1(CCCCC1)CC#C | C9H14
reactant | 9-BBN | 0.5 M, 2 mL | B1C2CCCC1CCC2 | C8H15B
reactant | boronic acid | B(O)O | BH3O2
reactant | 5-{3-[2-(4-bromo-benzyl)-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenyl}-1,2,5-thiadiazolidine-3-one-1,1-dioxide | 0.2 mmol, 119 mg | BrC1=CC=C(CC=2N(C=C(N2)C2=C(C=C(C=C2)Cl)Cl)C=2C=C(C=CC2)N2CC(NS2(=O)=O)=O)C=C1 | C24H17BrCl2N4O3S
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 5-{3-[2-[4-(3-cyclohexyl-propenyl)-benzyl]-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenyl}-1,2,5-thiadiazolidine-3-one-1,1-dioxide | C1(CCCCC1)CC=CC1=CC=C(CC=2N(C=C(N2)C2=C(C=C(C=C2)Cl)Cl)C=2C=C(C=CC2)N2CC(NS2(=O)=O)=O)C=C1 | C33H32Cl2N4O3S
